US07981903B2
A suspension of 6-nitro-2,3-dihydro-1H-indole (10 g, 60.9 mmol) and potassium carbonate (16.84 g, 122 mmol) in dichloromethane (250 mL) was treated with bromoacetylchloride (6.33 mL, 76 mmol) and stirred for 25 minutes. Water was added and the organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure. The residue was redissolved in THF and 2.0M dimethyl amine in THF (Aldrich, 152 mL, 305 mmol) was added. The solution was stirred overnight, diluted with saturated sodium bicarbonate, and the organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by column chromatography to afford N,N-dimethyl-2-(6-nitro-2,3-dihydro-1H-indol-1-yl)-2-oxoethanamine (13.6 g, 54.6 mmol, 90% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.80 (d, J=2.01 Hz, 1 H), 7.90 (dd, J=8.23, 2.21 Hz, 1 H), 7.48 (d, J=8.23 Hz, 1 H), 4.26 (t, J=8.53 Hz 2 H), 3.18-3.31 (m, 4 H), 2.28 (s, 6 H).

reactant | 6-nitro-2,3-dihydro-1H-indole | 60.9 mmol, 10 g | [N+](=O)([O-])C1=CC=C2CCNC2=C1 | C8H8N2O2
reactant | potassium carbonate | 122 mmol, 16.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetylchloride | 76 mmol, 6.33 mL | BrCC(=O)Cl | C2H2BrClO
reactant | dimethyl amine | 2.0M | CNC | C2H7N
reactant | THF | 305 mmol, 152 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Water | O | H2O
product | N,N-dimethyl-2-(6-nitro-2,3-dihydro-1H-indol-1-yl)-2-oxoethanamine | 54.6 mmol, 13.6 g, 90% yield | CN(CC(=O)N1CCC2=CC=C(C=C12)[N+](=O)[O-])C | C12H15N3O3
